US08207199B2
A mixture of tert-butyl 4-(3-oxo-3-phenylpropanoyl)piperidine-1-carboxylate (3.1 g), hydrazine monohydrate (0.5 mL), ethanol (30 mL), and THF (30 mL) was stirred at room temperature for about 15 hours, and at 60° C. for 1 hour. Hydrazine monohydrate (0.5 mL) was further added thereto, followed by stirring again at 60° C. for 3 hours. Hydrazine monohydrate (4.0 mL) was added thereto again, followed by stirring at 60° C. for 8 hours. After leaving to be cooled, the solvent was evaporated under reduced pressure, and to the residue were added diisopropyl ether and methanol, followed by stirring. The resulting solid was collected by filtration and dried under reduced pressure to obtain tert-butyl 4-(3-phenyl-1H-pyrazol-5-yl)piperidine-1-carboxylate (2.46 g).

reactant | tert-butyl 4-(3-oxo-3-phenylpropanoyl)piperidine-1-carboxylate | 3.1 g | O=C(CC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C19H25NO4
reactant | hydrazine monohydrate | 0.5 mL | O.NN
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | Hydrazine monohydrate | 0.5 mL | O.NN
reactant | Hydrazine monohydrate | 4.0 mL | O.NN
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-phenyl-1H-pyrazol-5-yl)piperidine-1-carboxylate | 2.46 g | C1(=CC=CC=C1)C1=NNC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O2
